US07091199B1
Preparation of (4-fluoro-benzyl)-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine
The title compound is prepared from 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole, potassium carbonate, 4-fluorobenzylamine and acetonitrile essentially as described above in example 18 except that the column is eluted using a solvent gradient of 40% ethyl acetate in heptane, to 100% ethyl acetate. Purity by LC/MS (APCI)=100%, [M+H]+=369.

reactant | 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C13H10BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | acetonitrile | C(C)#N | C2H3N
product | (4-fluoro-benzyl)-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine | FC1=CC=C(CNCCOC2=CC(=CC=C2)C2=NOC3=C2SC=C3)C=C1 | C20H17FN2O2S
